US06150362
2-[1,1'-biphenyl]-4-yl-4,6-dichloro-1,3,5-triazine
A mixture of 4-phenyl-phenyl magnesium bromide (prepared from 4-bromobiphenyl (7.75 g, 33 mmol) and magnesium turnings (0.83 g, 35 mmol) in 40 mL ether) and cyanuric chloride (4.00 g, 21.7 mmol) in benzene (90 mL) was stirred at 0° C. for 90 minutes. The reaction was evaporated to dryness, and the residue was flash chromatographed on silica gel with 50% hexanes/methylene chloride to provide the desired compound (2.80 g, 43%).

reactant | 4-phenyl-phenyl magnesium bromide | 33 mmol, 40 mL, 7.75 g | C1(=CC=CC=C1)C1=CC=C(C=C1)[Mg]Br
reactant | cyanuric chloride | 21.7 mmol, 4.00 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | benzene | 90 mL | C1=CC=CC=C1 | C6H6
product | 2-[1,1'-biphenyl]-4-yl-4,6-dichloro-1,3,5-triazine | 2.80 g, 43% | C1(=CC=C(C=C1)C1=NC(=NC(=N1)Cl)Cl)C1=CC=CC=C1 | C15H9Cl2N3
